US06750348B1
A mixture of 8-nitroquinoline (1.035 g, 5,94 mmol) and platinum oxide (35 mg, 0.15 mmol, 2.5 mol %) in glacial acetic acid was hydrogenated (20 psi) on a Parr Shaker at room temperature for 20 hours. The mixture was filtered through celite and the cake was washed with methanol. The solvent was removed from the filtrate to afford a red oil. The oil was dissolved in a mixture of CH2Cl2 (25 mL) and saturated aqueous NaHCO3 (10 mL) and a 10 M aqueous solution of sodium hydroxide was added dropwise until the aqueous phase was basic (pH ˜14) to litmus paper. The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were washed once with water (10 mL), dried (Na2SO4), and concentrated. The residue was filtered (100:1 CH2Cl2—CH3OH) through a short pad of silica gel (30 g) and afforded 0.699 g (79%) of 8-amino-1,2,3,4-tetrahydroquinoline as an oil. 1H NMR (CDCl3) δ 1.89-1.97 (m, 2H), 2.79 (t, 2H, J=6.3 Hz), 3.34 (t, 2H, J=5.4 Hz), 3.20-3.60 (br signal, 3H, NH & NH2), 6.55-6.64 (m, 3H); 13C NMR (CDCl3) δ 22.79, 27.44, 42.98, 114.50, 118.47, 121.56, 123.70, 134.24 (2 carbons).

reactant | 8-nitroquinoline | 5,94 mmol, 1.035 g | [N+](=O)([O-])C=1C=CC=C2C=CC=NC12 | C9H6N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
catalyst | platinum oxide | 0.15 mmol, 35 mg | [Pt]=O
product | 8-amino-1,2,3,4-tetrahydroquinoline | 0.699 g, 79% | NC=1C=CC=C2CCCNC12 | C9H12N2
